US05650428
The procedure described in Example 177 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-4-ethylthiobutanoic acid (1 g) and ethyl 4-aminophenylacetate hydrochloride (574.6 mg) were condensed in chloroform (30 ml) in the presence of triethylamine (1.64 ml) and 1-methyl-2-chloropyridinium iodide (907.5 mg) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-ethylthiobutanamide (113 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-4-ethylthiobutanoic acid | 1 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=S)O)CCCC | C12H16ClNO3S2
reactant | ethyl 4-aminophenylacetate hydrochloride | 574.6 mg | Cl.NC1=CC=C(C=C1)CC(=O)OCC
reactant | triethylamine | 1.64 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-2-chloropyridinium iodide | 907.5 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-ethylthiobutanamide | 113 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=S)NC1=CC=C(C=C1)CC(=O)OCC)CCCC | C22H27ClN2O4S2
